Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"My penis shrunk up,"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ man with unknown psychiatric history who 
presented today to ___ stating that his penis 
was smaller than usual and he needed help. He had a GU exam 
while there, which was normal, and due to possible 
delusional/psychotic symptoms while there (including his extreme 
somatic concern, tangentiality, and odd affect/thought 
processes), he was sent to ___ for psych evaluation. Upon being 
seen, he continued to be very tangential, and have difficulty 
answering questions; at times appearing to respond to internal 
stimuli. He was focused on his penis throughout, and on other 
pains, including pain in his head. He stated that he noticed his 
penis began shrinking about a week ago, and that when he "has an 
erection, it's not [his] ___ Regarding his head, he believes 
that someone, or multiple people, are purposely causing the pain 
("rubbing pain on the back of my head,") although he cannot say 
who, or why. He said he went to ___ today, because "my 
doctors are at ___, you know right?" He had difficulty 
staying organized enough to provide any more detailed history. 
He refused to give names of collateral to call. When I tried to 
do the cognitive exam, he began very agitated, and stated that I 
was "disrespecting him" and that he "needed to leave" right now. 
Asked for bags multiple times even after redirection.
  
Denies having any recent mood problems, other than being "sad 
about his penis." Denies thoughts of SI/HI. Denies AH/VH 
(although was seen talking to himself prior to entering his 
room). Denies that people are specifically following him or out 
to get him. Did not answer question as to whether he is 
receiving messages from TV, etc. States he is eating and 
sleeping. Denies anxiety. Unable to comply with other ROS 
questions. 
 
Past Medical History:
PAST MEDICAL HISTORY: States he has a history of migraines.
 
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Denies
-Prior Hospitalizations: Denies
-History of suicide attempts or self-injurious behavior: Denies
-Prior med trials: Denies
-Therapist: Denies
-Psychiatrist: Denies
 
SUBSTANCE ABUSE HISTORY:
-ETOH: Denies
-Tobacco: Denies
-Illicits: Denies
 
Social History:
___
Family History:
Denies.
 
Physical Exam:
PE in the ED
Temp: 97.8 HR: 68 BP: 115/71 Resp: 16 O(2)Sat: 100 Normal
 
Constitutional: Comfortable
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended
Skin: No rash, Warm and dry
Neuro: Speech fluent; CN ___ normal
 
motor is ___
bilaterally in upper and lower extremities
sensation intact throughout
normal pain and temperature sensation
reflexes normal
FTN normal, no PND, romberg negative, gait steady, normal tandem
visual fields intact
 
MENTAL STATUS EXAM:
Arousal: Alert, awake
Appearance: Young appearing ___ male. Seen talking 
to himself prior to walking in the room. Wearing ___. 
Frequently looking around the room. Hands in pants throughout 
most of interview. Relatively well-groomed, though with long 
fingernails.
Behavior: Difficulty cooperating. Minimal-moderate eye contact 
as he was frequently looking all over the room. Some odd 
movements (sat up in bed very suddenly). No PMR/PMA. At times, 
appeared to
be responding to internal stimuli.
Speech: Normal rate, tone and volume. 
Mood: "Sad about my penis"
Affect: Constricted, irritable, guarded, paranoid, limited 
reactivity
Perceptions: Denying AH/VH, however seen talking to himself.
Delusions about people causing his head pain.
Thought process: Tangential and disorganized.
Thought content: Very concerned about somatic symptoms, 
especially shrinking penis. Also concerned about headache, and 
stating that others are causing his head pain. Denies SI/HI.
Judgment and Insight: Poor insight and judgment
 
COGNITIVE EXAM: Was unable to participate; became too irritable.
Only able to state his name and that he was at ___. 
 
Pertinent Results:
___ 01:30AM   GLUCOSE-90 UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-29 ANION GAP-13
___ 01:30AM   TSH-1.1
___ 01:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:30AM   WBC-4.5 RBC-4.66 HGB-14.4 HCT-42.6 MCV-91 
MCH-31.0 MCHC-33.9 RDW-12.4
___ 01:30AM   NEUTS-25* BANDS-0 LYMPHS-64* MONOS-9 EOS-2 
BASOS-0 ___ MYELOS-0
___ 01:30AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 01:30AM   PLT SMR-NORMAL PLT COUNT-218
 
Brief Hospital Course:
Legal: ___
Psychiatric:
While in the ED, patient appeared irritable, guarded, paranoid, 
and was noted to respond to internal stimuli. He became agitated 
but was verbally redirectible and agreeable to taking a total of 
Haldol 5mg and Ativan 1.5mg over the course of 24 hours. He 
slept quietly for most of the night and following day. Tox 
screens were notably negative. Upon arrival to Deac 4, patient 
was calmer and more organized. When asked, he continued to state 
his belief that his penis might be shrinking, though he was less 
distressed by this concern. He remained vague and sometimes 
inconsistent in his responses, but did state repeatedly that 
being hospitalized was a "misunderstanding" because he had just 
wanted an "evaluation" for his penis and headache. 

Due to concerns for psychosis with rapid improvement on low-dose 
Haldol, patient was written for Haldol 2 mg PO bid, though this 
was repeatedly refused by patient. He was subsequently observed 
to be grossly organized, with no overt paranoid or delusional 
thinking, and no unsafe or aggressive behaviors at any point. He 
was mildly irritable, denied any AVH/CAH with some evidence of 
possible self-dialoging, but remained in good behavioral control 
throughout.

Medical:
There were no acute medical issues during patient’s hospital 
stay. Vital signs were monitored routinely and found to be 
within normal range.
 
Social/Milieu:
Patient was visible on the unit. He had limited group 
participation but met with his treatment team daily. He was 
maintained on q15 minute checks with no unsafe or aggressive 
behaviors.
  
Risk Assessment: 
Due to his likely psychosis with concerns for early 
schizophrenia, along with his lack of outpatient mental health 
treaters, patient is at elevated risk for self-harm, harm to 
others, and impaired judgment with future inability to care for 
self. However, patient was observed to be grossly organized 
during his hospitalization, after brief treatment with low-dose 
Haldol, and currently does not appear to be at acute risk. 
Future risk has been decreased through referral to future 
outpatient mental health treatment. Patient declines psychopharm 
treatment.

Dispo: 
Prior to discharge, social worker met with both patient and 
mother, who notably arrived several hours late for the meeting 
and was quite agitated during most of the conversation. She had 
difficulty focusing on questions posed and was mostly angry at 
her son whom she felt was argumentative towards her. She 
reported no acute safety concerns, no concerns about patient's 
ability to function at home, and no objections to his return 
home with her. Patient also continued to deny any concerns, with 
no interest in medications at this time. He was subsequently 
discharged home to the care of his mother with scheduled follow 
up with his PCP, with recommendation for subsequent mental 
health follow up.
 
Medications on Admission:
Denies.
 
Discharge Medications:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I. psychosis NOS, r/o schizophrenia
AXIS II. deferred  
AXIS III. h/o migraine headaches
 
Discharge Condition:
Mental Status: Cooperative, coherent, no overt paranoia or 
delusional thinking.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___